### ISSUE TITLE
Three sorries about `OfNat`, `ble`, etc

### ISSUE THREAD

**Issue by hrmacbeth** [leanprover-community/mathlib4#1362]
The following three declarations in `Tactic.Positivity.Core` seem to be the last sorries in mathlib4:
```lean
lemma pos_of_isNat [PartialOrder A] [AddMonoidWithOne A]
  (_ : NormNum.IsNat e n) (_ : Nat.ble 1 n = true) : 0 < (e : A) := sorry

lemma nonneg_of_isNat [PartialOrder A] [AddMonoidWithOne A]
  (_ : NormNum.IsNat e n) : 0 ≤ (e : A) := sorry

lemma nz_of_isNegNat [PartialOrder A] [Ring A]
  (_ : NormNum.IsInt e (.negOfNat n)) (_ : Nat.ble 1 n = true) : (e : A) ≠ 0 := sorry
```
It would be good to fill in their proofs, both for philosophical purity and because some metaprogramming (such as an autograder checking for `sorryAx`) will probably fail as long as they remain.

@dwrensha points on on [Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Last.20sorries.20in.20mathlib4) that at least one of them is actually false!

**Comment by semorrison** [comment]
```
lemma pos_of_isNat [StrictOrderedSemiring A]
    (h : NormNum.IsNat e n) (w : Nat.ble 1 n = true) : 0 < (e : A) := by
  rw [NormNum.IsNat.to_eq h rfl]
  apply Nat.cast_pos.2
  simpa using w

lemma nonneg_of_isNat [OrderedSemiring A]
    (h : NormNum.IsNat e n) : 0 ≤ (e : A) := by
  rw [NormNum.IsNat.to_eq h rfl]
  exact Nat.cast_nonneg n

lemma nz_of_isNegNat [StrictOrderedRing A]
    (h : NormNum.IsInt e (.negOfNat n)) (w : Nat.ble 1 n = true) : (e : A) ≠ 0 := by
  rw [NormNum.IsInt.neg_to_eq h rfl]
  simp only [ne_eq, neg_eq_zero]
  apply ne_of_gt
  simpa using w
```
work, but then `def normNumPositivity` can't generate the relevant typeclasses.

There we can't just use `let _ ← synthInstanceQ (q(StrictOrderedSemiring $α) : Q(Type u))` because `NormNum.derive` is already giving us weaker typeclasses.

**Comment by hrmacbeth** [comment]
Fixed by #1375.
